### PR TITLE
[Merged by Bors] - feat: open-closed intervals form a semiring of sets

### PR DESCRIPTION
**Pull request by sgouezel**
Needed for #34055.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/SetSemiring.lean [hunk 1]
```diff
@@ -438,6 +438,53 @@ lemma sUnion_disjointOfUnion (hC : IsSetSemiring C) (hJ : ↑J ⊆ C) :
 
 end disjointOfUnion
 
+/-- Finite disjoint unions of elements of a set of sets. -/
+def _root_.Set.finiteUnions (C : Set (Set α)) : Set (Set α) :=
```
Comment (vihdzp) [inline Mathlib/MeasureTheory/SetSemiring.lean]: Is it possible to describe this as some kind of closure operation?

Comment (sgouezel) [reply Mathlib/MeasureTheory/SetSemiring.lean]: Probably. But here I am really interested in the down to earth definition, as you can see below. If the need for a generalization shows up, then let's do it then, but let's not overengineer for now!

Comment (gasparattila) [reply Mathlib/MeasureTheory/SetSemiring.lean]: It may be worth using [supClosure](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/SupClosed.html#supClosure) instead and proving that for an `IsSetSemiring`, it consists of the disjoint unions. I have an unfinished implementation of this [here](https://github.com/gasparattila/mathlib4/commit/65be6723fbbedd46e57f59711093478208feff07), which also cleans up some proofs in this file by using [Finpartition](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Partition/Finpartition.html#Finpartition) instead of manually writing the properties of partitions. What do think about this approach?

Comment (sgouezel) [reply Mathlib/MeasureTheory/SetSemiring.lean]: That's a good idea: since we already have the supClosure definition in Mathlib, there's no point in adding another definition that plays the same role here, better use the existing definition and add more API if needed. Do you want to finish your implementation and PR it?

Comment (gasparattila) [reply Mathlib/MeasureTheory/SetSemiring.lean]: #34470

File: Mathlib/MeasureTheory/SetSemiring.lean [hunk 2]
```diff
@@ -438,6 +438,46 @@ lemma sUnion_disjointOfUnion (hC : IsSetSemiring C) (hJ : ↑J ⊆ C) :
...
+    Set.Ioc u v ∈ {s : Set α | ∃ u v, u ≤ v ∧ s = Set.Ioc u v} := by
+  rcases le_or_gt u v with h | h
+  · exact ⟨u, v, h, rfl⟩
+  · have : Set.Ioc u v = ∅ := by
+      simpa only [Set.Ioc_eq_empty_iff, not_lt] using h.le
+    rw [this]
+    exact ⟨u, u, le_rfl, by simp⟩
+
+/-- The set of open-closed intervals is a semi-ring of sets. -/
+lemma Ioc {α : Type*} [LinearOrder α] [Nonempty α] :
```
Comment (vihdzp) [inline Mathlib/MeasureTheory/SetSemiring.lean]:
```suggestion
protected lemma Ioc {α : Type*} [LinearOrder α] [Nonempty α] :
```

File: Mathlib/MeasureTheory/SetSemiring.lean [hunk 3]
```diff
@@ -438,6 +438,46 @@ lemma sUnion_disjointOfUnion (hC : IsSetSemiring C) (hJ : ↑J ⊆ C) :
 
 end disjointOfUnion
 
+lemma _root_.Set.Ioc_mem_setOf_Ioc_le {α : Type*} [LinearOrder α] (u v : α) :
```
Comment (vihdzp) [inline Mathlib/MeasureTheory/SetSemiring.lean]: You already have α as a variable, don't you? Same below.
```suggestion
lemma _root_.Set.Ioc_mem_setOf_Ioc_le [LinearOrder α] (u v : α) :
```

File: Mathlib/MeasureTheory/SetSemiring.lean [hunk 4]
```diff
@@ -438,6 +438,46 @@ lemma sUnion_disjointOfUnion (hC : IsSetSemiring C) (hJ : ↑J ⊆ C) :
...
+    Set.Ioc u v ∈ {s : Set α | ∃ u v, u ≤ v ∧ s = Set.Ioc u v} := by
```
Comment (vihdzp) [inline Mathlib/MeasureTheory/SetSemiring.lean]: I think it might make more sense to re-state this as `Ioc u (max u v) = Ioc u v`. There are tons of variants of this theorem we could have as well.

File: Mathlib/MeasureTheory/SetSemiring.lean [hunk 5]
```diff
@@ -438,6 +438,46 @@ lemma sUnion_disjointOfUnion (hC : IsSetSemiring C) (hJ : ↑J ⊆ C) :
...
+  rcases le_or_gt u v with h | h
+  · exact ⟨u, v, h, rfl⟩
+  · have : Set.Ioc u v = ∅ := by
+      simpa only [Set.Ioc_eq_empty_iff, not_lt] using h.le
+    rw [this]
+    exact ⟨u, u, le_rfl, by simp⟩
+
+/-- The set of open-closed intervals is a semi-ring of sets. -/
+lemma Ioc {α : Type*} [LinearOrder α] [Nonempty α] :
+    IsSetSemiring {s : Set α | ∃ u v, u ≤ v ∧ s = Set.Ioc u v} where
```
Comment (vihdzp) [inline Mathlib/MeasureTheory/SetSemiring.lean:447]: This is perhaps a nicer spelling for what you're doing.
```suggestion
    IsSetSemiring (Set.range fun x : α × α ↦ Set.Ioc x.1 x.2) where
```

**Review by vihdzp — CHANGES_REQUESTED** [review]

File: Mathlib/MeasureTheory/SetSemiring.lean (hunk 5 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/SetSemiring.lean:447]: No, the current form is better for applications: it's really useful to me to have intervals with the left point to the left of the right point by assumption when taking elements of the set.

File: Mathlib/MeasureTheory/SetSemiring.lean (hunk 4 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/SetSemiring.lean]: I just see that as a purely technical shortcut for the following proof, and that's really the form that is the most useful there. Since I agree it's not interesting at all for general purposes, I've just made it private -- and I've shortened the proof using your hint, thanks!

File: Mathlib/MeasureTheory/SetSemiring.lean (hunk 5 above)
Comment (vihdzp) [reply Mathlib/MeasureTheory/SetSemiring.lean:447]: You can accomplish that using the `Ioc_max` theorem I mentioned earlier. Though I guess it doesn't hurt having that extra piece of information.

I wonder if it might be a good idea to create `SetSemiring` and `SetRing` structures, rather than working with these raw predicates. Then you might define `SetSemiring.Ioc` using my definition (which makes it quite clear this is nothing but the set of Ioc intervals), but then give the alternate characterization of the carrier set you mention.

Comment (sgouezel) [reply Mathlib/MeasureTheory/SetSemiring.lean:447]: I have tried with `Ioc_max`, and the proofs are just slightly less convenient, so I'd rather stick with the current approach.

As for bundling or not `SetSemiring` and `SetRing`, I don't think it would make a difference, the two points of view are essentially equivalent. Since the current design has been battle-tested and works well for the applications, I'm not sure it's worth spending time to change it.

**Review by ocfnash — APPROVED** [review]
Thanks!

bors merge
